US07538224B2
Methyl 3,5-dihydroxyphenylacetate (30 g, 0.17 mol) was dissolved in acetone (0.50 L), and potassium carbonate (91 g, 0.66 mol) and allyl bromide (0.11 L, 1.3 mol) were added thereto at room temperature. The mixture was stirred for 8 hours under heating and reflux, and then stirred at room temperature for 10 hours. The reaction mixture was concentrated under reduced pressure, and water was added to the resulting residue, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/15-1/3) to obtain methyl 3,5-diallyloxyphenylacetate (40 g, 93%).

reactant | Methyl 3,5-dihydroxyphenylacetate | 0.17 mol, 30 g | OC=1C=C(C=C(C1)O)CC(=O)OC | C9H10O4
reactant | potassium carbonate | 0.66 mol, 91 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 1.3 mol, 0.11 L | C(C=C)Br | C3H5Br
reactant | acetone | 0.50 L | CC(=O)C | C3H6O
product | methyl 3,5-diallyloxyphenylacetate | 40 g, 93% | C(C=C)OC=1C=C(C=C(C1)OCC=C)CC(=O)OC | C15H18O4
